US07585885B2
5-Nitro-N,N-dipropyl-isophthalamic acid
Dissolve 5-nitro-N,N-dipropyl-isophthalamic acid methyl ester (1.000 g, 3.243 mmol) and lithium hydroxide (0.089 g, 3.730 mmol) in a mixture of THF (3.16 mL), water (1.58 mL) and methanol (1.58 mL). Stir the mixture at room temperature until the starting material is consumed. Concentrate and acidify with 1 N HCl. Extract with ethyl acetate, dry (magnesium sulfate) and concentrate to give the title compound (0.874 g, 92%).

reactant | 5-nitro-N,N-dipropyl-isophthalamic acid methyl ester | 3.243 mmol, 1.000 g | COC(C1=CC(C(=O)N(CCC)CCC)=CC(=C1)[N+](=O)[O-])=O | C15H20N2O5
reactant | lithium hydroxide | 3.730 mmol, 0.089 g | [OH-].[Li+]
reactant | water | 1.58 mL | O | H2O
reactant | methanol | 1.58 mL | CO | CH4O
solvent | THF | 3.16 mL | C1CCOC1 | C4H8O
product | 5-Nitro-N,N-dipropyl-isophthalamic acid | 0.874 g, 92% | [N+](=O)([O-])C=1C=C(C=C(C(=O)O)C1)C(=O)N(CCC)CCC | C14H18N2O5
